US07872031B2
To a solution of 2,3 dichloroaniline (3.875 g, 23.914 mmol) in diethyl ether (20 mL) was added 5-bromo-2-chloropyridine-3-carbonyl chloride (3.0 g, 11.96 mmol). The reaction was stirred overnight. The precipitated solids were collected and washed with diethyl ether to provide 3.6 g of 5-bromo-2-chloro-N-(2,3-dichlorophenyl)pyridine-3-carboxamide as a cream colored solid [LC-MS m/e=380.0 (M+H)]. Using the same procedure, 5-bromo-2-chloro-N-(2,3-fluorophenyl)pyridine-3-carboxamide and 5-bromo-2-chloro-N-(3-chloro-2-fluorophenyl)pyridine-3-carboxamide can be produced from reacting 5-bromo-2-chloropyridine-3-carbonyl chloride with 2,3 fluoroaniline and 3-chloro-2-fluoroaniline, respectively.

reactant | 2,3 dichloroaniline | 23.914 mmol, 3.875 g | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | 5-bromo-2-chloropyridine-3-carbonyl chloride | 11.96 mmol, 3.0 g | BrC=1C=C(C(=NC1)Cl)C(=O)Cl | C6H2BrCl2NO
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 5-bromo-2-chloro-N-(2,3-dichlorophenyl)pyridine-3-carboxamide | 3.6 g | BrC=1C=C(C(=NC1)Cl)C(=O)NC1=C(C(=CC=C1)Cl)Cl | C12H6BrCl3N2O
